US06849639B2
Step C: 2-(3-(4-{N-(2-(ethoxycarbonyl)-1-(3-pyridyl)ethyl)carbamoyl}-2-oxopyrrolidinyl)phenyl)acetic acid
To a solution of ethyl 3-{(5-oxo-1-(3-{(benzyloxycarbonyl)methyl}phenyl)pyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate (2.6 g, 5.0 mmol, 1.0 eq), triethylamine (1.5 mL) in methanol (20 mL), was added 10% Pd/C (Aldrich, 0.5 g, 0.5 mmol, 0.1 eq). Hydrogenation was carried out under a pressure of 1 atm. After stirring for 5 hours, the catalyst was filtered through a pad of celite and the filtrate was concentrated with rotary evaporator. The title compound was obtained as an off-white solid. MS (ES+): 440 (M+H)+; (ES−): 438 (M−H)−.

reactant | ethyl 3-{(5-oxo-1-(3-{(benzyloxycarbonyl)methyl}phenyl)pyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate | 5.0 mmol, 2.6 g, 1.0 eq | O=C1CC(CN1C1=CC(=CC=C1)CC(=O)OCC1=CC=CC=C1)C(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C30H31N3O6
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 0.5 mmol, 0.5 g, 0.1 eq | [Pd] | Pd
product | 2-(3-(4-{N-(2-(ethoxycarbonyl)-1-(3-pyridyl)ethyl)carbamoyl}-2-oxopyrrolidinyl)phenyl)acetic acid | C(C)OC(=O)CC(C=1C=NC=CC1)NC(=O)C1CC(N(C1)C=1C=C(C=CC1)CC(=O)O)=O | C23H25N3O6
